US07897619B2
1-(5-Bromo-2-fluoro-phenyl)-ethanone:
5-Bromo-2-fluoro-phenyl-methanol (50.0 g, 228 mmol) along with 300 mL DCM was charged into 2 liter round bottom flask. Crushed pyridinium dichromate (171.0 g, 456 mmol) and powdered molecular sieves (10 g) were both added into the flask. The heterogeneous reaction mixture was stirred for 16 hours at 20° C. The resulting reaction mixture was filtered through Celite and washed with ether (500 mL×3). The combined filtrate was concentrated under reduced pressure. The crude product was eluted through a short silica gel pad (3 inch in length) with 10% EtOAc in hexane. The resulting product (42.0 g, yield=84%) was used in the following step.

reactant | 5-Bromo-2-fluoro-phenyl-methanol | 228 mmol, 50.0 g | BrC=1C=CC(=C(C1)CO)F | C7H6BrFO
reactant | pyridinium dichromate | 456 mmol, 171.0 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-Bromo-2-fluoro-phenyl)-ethanone | 42.0 g, yield=84% | BrC=1C=CC(=C(C1)C(C)=O)F | C8H6BrFO
